US07994317B2
c) Preparation of cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino)-N-(2-(trifluoromethoxy)benzyl)cyclohexanecarboxamide
HATU (17.4 mg, 0.046 mmol, 1.1 equivalents) in DMF (0.2 ml) was added to the solution of cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid (13.9 mg, 0.042 mmol, 1 equivalent) in DMF (1 ml), followed by adding DIEA (18.1 ul, 0.104 mmol, 2.5 equivalents). 2-(trifluoromethyl)-benzenemethanamine (9.54 mg, 0.05 mmol, 1.2 equivalents) in DMF (0.1 ml) was added. The reaction solution was stirred at room temperature for 2 hrs. LC-MS showed the reaction has completed. The reaction was diluted with EtOAc (2 ml), which was further washed with water (2×1.5 ml). The organic layer was dried and purified by RP-HPLC (Luna 5μ C8(2), 100×21 mm, 25-80% CH3CN/H2O, 0.1% TFA, 20 min) to give the desired product (12.2 mg, 58%). MS (ES+): m/e 508.4 [M+H]+.

reactant | HATU | 0.046 mmol, 17.4 mg, 1.1 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid | 0.042 mmol, 13.9 mg, 1 equivalent | NC1=NC(=NC(=N1)N1CCCCCC1)N[C@H]1CC[C@H](CC1)C(=O)O | C16H26N6O2
reactant | DIEA | 0.104 mmol, 18.1 ul, 2.5 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(trifluoromethyl)-benzenemethanamine | 0.05 mmol, 9.54 mg, 1.2 equivalents | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino)-N-(2-(trifluoromethoxy)benzyl)cyclohexanecarboxamide | 12.2 mg, 58% | NC1=NC(=NC(=N1)N1CCCCCC1)N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)OC(F)(F)F | C24H32F3N7O2
